US07863271B2
(R)-2-(2-(benzylamino)propoxy)acetyl chloride was dissolved in tert-butanol (500 mL). Sodium tert-butoxide (14.0 g, 125 mmol) was then added in one portion and the reaction mixture heated at reflux for 18 h. The reaction was cooled and concentrated under reduced pressure to remove the solvent. The residue was dissolved in diethyl ether (300 mL) and then washed with 2 N HCl (150 mL), H2O (150 mL) and saturated brine (100 mL). The organic phase was then dried (Na2SO4), filtered, and concentrated under reduced pressure to afford a light yellow oil. Purification by column chromatography (silica gel, 10-50% EtOAc in heptanes) afforded (R)-4-benzyl-5-methylmorpholine-3-one (17.2 g, 63%) as a light yellow oil. 1H NMR and MS consistent.

reactant | (R)-2-(2-(benzylamino)propoxy)acetyl chloride | C(C1=CC=CC=C1)N[C@@H](COCC(=O)Cl)C | C12H16ClNO2
reactant | Sodium tert-butoxide | 125 mmol, 14.0 g | CC(C)([O-])C.[Na+]
solvent | tert-butanol | 500 mL | C(C)(C)(C)O | C4H10O
product | (R)-4-benzyl-5-methylmorpholine-3-one | 17.2 g, 63% | C(C1=CC=CC=C1)N1C(COC[C@H]1C)=O | C12H15NO2
